US07732452B2
Steps 2 and 3: Rac-4-[2-Fluoro-2-(4′-fluoro-biphenyl-4-yloxy)-acetylamino]-thiophene-3-carboxylic acid
In analogy to Example 2, the title compound was prepared using 4-(2-chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester and 4-fluoro-4′-hydroxybiphenyl. MS (m/e): 388.2 (M−H).

reactant | 4-(2-chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC=C1NC(C(F)Cl)=O | C8H7ClFNO3S
reactant | 4-fluoro-4′-hydroxybiphenyl | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
product | Rac-4-[2-Fluoro-2-(4′-fluoro-biphenyl-4-yloxy)-acetylamino]-thiophene-3-carboxylic acid | FC(C(=O)NC=1C(=CSC1)C(=O)O)OC1=CC=C(C=C1)C1=CC=C(C=C1)F | C19H13F2NO4S
